US03959322
dl-13-Ethyl-17α-ethynyl-17-hydroxy-6α-methylgon-4-en-3-one
Stir dl-13-ethyl-3-methoxy-17α-ethynyl-17-hydroxy-6-methylgona-2,5(10)-diene (3.5 g) in methanol (90 cc) containing hydrochloric acid (60 cc) and water (4.0 ml) under nitrogen for one hour. Isolate the crude product, chromatograph on Florex (150 g) and recrystallize from ethyl acetate-hexane to obtain the title compound (0.60 g), m.p. 148°-151°, λ max. CHCl3 2.55 μ, 3.05 μ, 6.01 μ; λ max. EtOH 240 mμ (ε15,000).

reactant | 13-ethyl-3-methoxy-17α-ethynyl-17-hydroxy-6-methylgona-2,5(10)-diene | 3.5 g | C(C)[C@]12[C@](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1C(C2)C)OC)(O)C#C | C23H32O2
reactant | hydrochloric acid | 60 cc | Cl | ClH
reactant | water | 4.0 ml | O | H2O
solvent | methanol | 90 cc | CO | CH4O
product | 13-Ethyl-17α-ethynyl-17-hydroxy-6α-methylgon-4-en-3-one | 0.60 g | C(C)[C@]12[C@](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1[C@H](C2)C)=O)(O)C#C | C22H30O2
